US06531491B1
[2-(4-Bromo-3-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane was prepared in 86% yield from 4-bromo-3-methyl-phenol according to the procedure for [2-(4-bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane. 1H NMR (300 MHz, CDCl3) δ 7.39 (d, 1H, J=8.7 Hz), 6.93 (d, 1H, J=2.7 Hz), 6.75 (dd, 1H, J=8.7, 2.7 Hz), 5.16 (s, 2H), 3.74 (t, 2H, J=8.4 Hz), 2.36 (s, 3H), 0.95 (t, 2H, J=8.4 Hz), 0.01 (s, 9H). Anal. (C13H21BrO2Si) C, H. Calculated: C, 49.21; H, 6.67. Found: C, 49.33; H, 6.67.

reactant | 4-bromo-3-methyl-phenol | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | [2-(4-bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | BrC1=CC(=C(OCOCC[Si](C)(C)C)C=C1C)OC | C14H23BrO3Si
product | [2-(4-Bromo-3-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | 86% yield | BrC1=C(C=C(OCOCC[Si](C)(C)C)C=C1)C | C13H21BrO2Si
